US06306852B1
(a) 3-Nitro-4-methylbenzoic acid tert-butyl ester
To a solution of 3-nitro-4-methylbenzoic acid (17.3 g 96 mmol) in dichloromethane (250 ml) and tert-butanol (35.8 g 470 mmol) at 0° C. under nitrogen was added 4-dimethylaminopyridine (6 g 50 mmol) and 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (25.8 g 140 mmol) and the solution allowed to come to room temperature over 1 hour. then stirred overnight. The solution was poured into 1:1 ethyl acetate:water (800 ml) and the organic layer washed with aqueous bicarbonate and saturated aqueous sodium chloride. then dried (MgSO4) and evaporated. to give the product as a clear oil (22.6 g).

reactant | 3-nitro-4-methylbenzoic acid | 96 mmol, 17.3 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1C | C8H7NO4
reactant | tert-butanol | 470 mmol, 35.8 g | C(C)(C)(C)O | C4H10O
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 140 mmol, 25.8 g | Cl.CN(CCCN=C=NCC)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 50 mmol, 6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Nitro-4-methylbenzoic acid tert-butyl ester | 22.6 g | C(C)(C)(C)OC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C12H15NO4
